US04973576
A solution of 2.5 g of tetraethyl [(5-cyclopropyl-3-isoxazolyl)-amino]methylene-bis(phosphonate) in 25 ml of concentrated hydrochloric acid was heated under reflux for 3.5 hours. The reaction mixture was concentrated. Methanol and acetone were added to the concentrate to give 1.7 g of [(5-cyclopropyl-3-isoxazolyl)-amino]-methylene-bis(phosphonic acid) as a solid.

reactant | tetraethyl [(5-cyclopropyl-3-isoxazolyl)-amino]methylene-bis(phosphonate) | 2.5 g | C1(CC1)C1=CC(=NO1)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C15H28N2O7P2
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | [(5-cyclopropyl-3-isoxazolyl)-amino]-methylene-bis(phosphonic acid) | 1.7 g | C1(CC1)C1=CC(=NO1)NC(P(O)(O)=O)P(O)(O)=O | C7H12N2O7P2
